US05545636
3-{1-[1-(2,2,3,3,4,4,4-Heptafluoro-butyl)-piperidin-4-yl]-indol-3-yl}-4-(1-methyl-indol-3-yl)-1H-pyrrole-2,5-dione
To a stirred 0° C. solution of 1-(4,4,4,3,3,2,2-heptafluorobutyl)-4-(1-indolyl)-piperidine (430 mg, 1.12 mmol) in dry ether (5 mL) was added oxalyl chloride (0.11 mL, 1.23 mmol). After 1 hour at room temperature, a yellow precipitate formed. The precipitant was collected by filtration under Ar, washed with ether, suspended in dry methylene chloride (10 mL) and treated with isopropyl(1-methyl)indol-3-yl)acetimidate hydrochloride (300 mg, 1.12 mmol). To this suspension was added triethylamine (0.78 mL, 5.6 mmol) in dry methylene chloride (3 mL) at 0° C. The reaction was stirred at ambient temperature for 3 hours and treated with p-toluene sulfonic acid monohydrate (slightly exothermic) (0.86 g, 4.5 mmol). After 30 minutes, the reaction was carefully quenched with saturated aqueous sodium hydrogen carbonate solution (30 mL). The organic phase was separated, washed with saturated aqueous sodium hydrogen carbonate solution, water, brine, dried, and evaporated. The residue was crystallized from an ethereal solution. Yield: 260 mg of bright orange crystals (38% of theory). H.Pt.: 231°-234° C.

reactant | 1-(4,4,4,3,3,2,2-heptafluorobutyl)-4-(1-indolyl)-piperidine | 1.12 mmol, 430 mg | FC(C(C(CN1CCC(CC1)N1C=CC2=CC=CC=C12)(F)F)(F)F)(F)F | C17H17F7N2
reactant | oxalyl chloride | 1.23 mmol, 0.11 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | acetimidate hydrochloride | 1.12 mmol, 300 mg | Cl.C(C)(O)=N
reactant | triethylamine | 5.6 mmol, 0.78 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluene sulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-{1-[1-(2,2,3,3,4,4,4-Heptafluoro-butyl)-piperidin-4-yl]-indol-3-yl}-4-(1-methyl-indol-3-yl)-1H-pyrrole-2,5-dione | FC(CN1CCC(CC1)N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O)(C(C(F)(F)F)(F)F)F | C30H25F7N4O2
